US05534515
5b. 7-Benzyloxy-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine
18.3 ml (177 mmol) of benzyl alcohol are added dropwise at room temperature to a solution of 33.0 g (295 mmol) of potassium tert-butoxide and 1.5 g (5.9 mmol) of [18]crown-6 in 180 ml of anhydrous N-methylpyrrolidone. The mixture is subsequently stirred at room temperature for a further 1 h. A solution of 15.9 g (59 mmol) of 7-chloro-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine in 50 ml of anhydrous N-methylpyrrolidone is then added dropwise in the course of 15 min. The suspension is then stirred at 80° C. for 2 h. After cooling to room temperature, it is treated with 400 ml of ice-water, and extracted with 3×300 ml of ethyl acetate. The organic extracts are washed with 3×200 ml of water and subsequently dried over magnesium sulfate. The residue which remains after concentration is chromatographed on silica gel (eluent: toluene/ethyl acetate=4:1). After concentration of the fractions of Rf=0.25 and crystallization from diisopropyl ether/ethyl acetate, 5.1 g (25%) of the title compound are isolated. M.p.: 162°-164° C.

reactant | benzyl alcohol | 177 mmol, 18.3 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium tert-butoxide | 295 mmol, 33.0 g | CC(C)([O-])C.[K+]
reactant | 7-chloro-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine | 59 mmol, 15.9 g | ClC=1N=NC=C2C1N(C(=C2[N+](=O)[O-])C)CC(C)C | C11H13ClN4O2
solvent | N-methylpyrrolidone | 180 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 7-Benzyloxy-1-isobutyl-2-methyl-3-nitropyrrolo[2,3-d]pyridazine | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2[N+](=O)[O-])C)CC(C)C | C18H20N4O3
